US07977367B2
Intermediate: 4-(isopropylthio)-1H-pyrazole (I-2a)
To a stirred solution of 4-bromo-1H-pyrazole (2.49 g, 16.9 mmol; Aldrich Chemical Company, Inc., Milwaukee, Wis.) in THF under nitrogen at 0° C. was added dropwise n-butyllithium (34.9 mL, 1.6 M in hexanes). The reaction mixture was slowly warmed to room temperature and stirred for 1 hour. It was then cooled to 0° C., diisopropyl disulfide (2.70 mL, 16.9 mmol) was added dropwise and stirring continued at the same temperature for 2 hours. The reaction mixture was poured into a biphasic mixture of 100 mL ethyl acetate and 50 mL ice water. The pH of the mixture was adjusted to about 6 and the organic portion was separated, washed with water, brine and dried over MgSO4. It was then filtered and the filtrate was concentrated under reduced pressure to afford 1.88 g of (I-2a).

reactant | 4-bromo-1H-pyrazole | 16.9 mmol, 2.49 g | BrC=1C=NNC1 | C3H3BrN2
reactant | n-butyllithium | 1.6 M, 34.9 mL | C(CCC)[Li]
reactant | diisopropyl disulfide | 16.9 mmol, 2.70 mL | C(C)(C)SSC(C)C | C6H14S2
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | THF | C1CCOC1 | C4H8O
product | 4-(isopropylthio)-1H-pyrazole | C(C)(C)SC=1C=NNC1 | C6H10N2S
